US04797495
7-Bromomethyl-benzo[b]naphtho[2,3-d]furan
To a RB flask was added 7-methyl-benzo[b]naphtho-[2,3-d]furan (Cambridge Chemicals, Inc., 16.0 g, 0.07 mol), N-bromosuccinimide (Aldrich 12.8 g, 0.072 mol, recrystallized from H2O and dried under high vacuum overnight), a catalytic amount of benzoyl peroxide (0.01 g) and CCl4 (1 L). The mixture was refluxed for 2.5 h, cooled and filtered to remove the succinimide formed in the reaction. The solvent was then removed from the reaction mixture by rotary evaporation. The crude product was purified by flush chromatography on SiO2 using PhCH3 as the eluting solvent. The appropriate fractions were combined and the solvent once again removed by rotary evaporation to give 22.0 g of product. The material (which was one spot by TLC and pure by NMR) was used without further purification.

reactant | 7-methyl-benzo[b]naphtho-[2,3-d]furan | 0.07 mol, 16.0 g | CC=1C2=CC3=C(C4=C(O3)C=CC=C4)C=C2C=CC1 | C17H12O
reactant | N-bromosuccinimide | 0.072 mol, 12.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 0.01 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 1 L | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-Bromomethyl-benzo[b]naphtho[2,3-d]furan | 22.0 g | BrCC=1C2=CC3=C(C4=C(O3)C=CC=C4)C=C2C=CC1 | C17H11BrO
